US05977178
A solution of 3-((2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionylamino)propyl acetate (862 mg, 2.28 mmol) in dichloromethane (3 mL) was cooled to 0° C. Trifluoroacetic acid (3 mL) was added. The solution was stirred for 10 min. The solvents were removed in vacuo without warming. The residue was dissolved in dichloromethane (50 mL) and the solvent was removed in vacuo. The procedure was repeated twice. The crude product was purified by flash chromatography on silica (70 g) with dichloromethane/methanol/25% ammonia in water (100:10:1) to give 602 mg of 3-((2R)-2-(methylamino)-3-phenylpropionylamino)propyl acetate.

reactant | 3-((2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionylamino)propyl acetate | 2.28 mmol, 862 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C(=O)OC(C)(C)C)=O | C20H30N2O5
reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-((2R)-2-(methylamino)-3-phenylpropionylamino)propyl acetate | 602 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)NC)=O | C15H22N2O3
